US07442696B2
This compound was prepared using General Method 2 (EXAMPLE 1) from (±)-1-(2-amino-6-chlorophenyl)-(4-fluorophenyl)methanol (0.28 g, 1.1 mmol) to afford 0.14 g (45%) of (±)-5-chloro-4-(4-fluorophenyl)-1,4-dihydro-2H-3,1-benzoxazin-2-one after flash chromatography (4:1 hexanes:ethyl acetate).

reactant | (±)-1-(2-amino-6-chlorophenyl)-(4-fluorophenyl)methanol | 1.1 mmol, 0.28 g | NC1=C(C(=CC=C1)Cl)C(O)C1=CC=C(C=C1)F | C13H11ClFNO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (±)-5-chloro-4-(4-fluorophenyl)-1,4-dihydro-2H-3,1-benzoxazin-2-one | 0.14 g, 45% | ClC1=CC=CC2=C1C(OC(N2)=O)C2=CC=C(C=C2)F | C14H9ClFNO2
